US06326375B1
(4) Preparation of N-[5-(3-hydroxyphenyl)-2-pyrazinyl]-3-oxospiro[isobenzofuran-1(3H),4′-piperidine]-1′-carboxamide
A mixture of spiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride (40 mg), phenyl N-[5-(3-hydroxyphenyl)-2-pyrazinyl]carbamate (51 mg) and triethylamine (119 μL) in chloroform (5 mL) was stirred at 80° C. for 2 hours. The reaction mixture was poured into water and extracted with chloroform (20 mL). The organic layer was washed with saturated saline solution (20 mL) and then dried over anhydrous Na2SO4. The concentration of the solvent left a residue, which was purified by column chromatography on silica gel (hexane/ethyl acetate=4/1 to 1/2) followed by recrystallization from ethyl ether-hexane to give the subject compound (24 mg) as colorless crystals (melting point 257-259° C.).

reactant | spiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride | 40 mg | Cl.N1CCC2(CC1)OC(C1=CC=CC=C12)=O
reactant | phenyl N-[5-(3-hydroxyphenyl)-2-pyrazinyl]carbamate | 51 mg | OC=1C=C(C=CC1)C=1N=CC(=NC1)NC(OC1=CC=CC=C1)=O | C17H13N3O3
reactant | triethylamine | 119 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[5-(3-hydroxyphenyl)-2-pyrazinyl]-3-oxospiro[isobenzofuran-1(3H),4′-piperidine]-1′-carboxamide | 24 mg | OC=1C=C(C=CC1)C=1N=CC(=NC1)NC(=O)N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C23H20N4O4
